US08609656B2
1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-1H-imidazo[4,5-c]pyridine-4-carboxylic acid methylamide (Table 1, Compound No. 93)
The title compound can be synthesized from 1-(4-nitrophenyl)-1H-imidazo[4,5-c]pyridine-4-carboxylic acid methyl ester, methylamine and 4-chloro-3-(trifluoromethyl)phenyl isocyanate in the same manner as in Steps C and D of Example 92.

reactant | 1-(4-nitrophenyl)-1H-imidazo[4,5-c]pyridine-4-carboxylic acid methyl ester | COC(=O)C1=NC=CC2=C1N=CN2C2=CC=C(C=C2)[N+](=O)[O-] | C14H10N4O4
reactant | methylamine | CN | CH5N
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-1H-imidazo[4,5-c]pyridine-4-carboxylic acid methylamide | CNC(=O)C1=NC=CC2=C1N=CN2C2=CC=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F | C22H16ClF3N6O2
